US07612114B2
Pivalic acid 6-[2-(ethoxycarbonylmethylamino)-4-methoxyphenyl]-5,6,7,8-tetrahydronaphthalen-2-yl ester
A mixture of pivalic acid 6-(2-amino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (110 mg), bromoethyl acetate (400 mg), sodium acetate (200 mg) and ethanol (2 ml) was refluxed overnight. A saturated aqueous solution of sodium bicarbonate was added, and the solution was extracted with ethyl acetate. The solution was washed with brine, dried over magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (83 mg).

reactant | pivalic acid 6-(2-amino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 110 mg | NC1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C22H27NO3
reactant | bromoethyl acetate | 400 mg | C(C)(=O)OCCBr | C4H7BrO2
reactant | sodium acetate | 200 mg | C(C)(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | Pivalic acid 6-[2-(ethoxycarbonylmethylamino)-4-methoxyphenyl]-5,6,7,8-tetrahydronaphthalen-2-yl ester | 83 mg | C(C)OC(=O)CNC1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C26H33NO5
